US07825114B2
Preparation of 1-[5-Cyano-4-(3-nitro-phenyl)-6-oxo-1,6-dihydro-pyridin-2-yl]-cyclopropanecarboxylic acid ethyl ester
In analogy to GP 1, reaction of 30.8 g ammonium acetate (400 mmol), 11.3 g ethyl cyanoacetate (100 mmol), 15.6 g 1-acetyl-cyclopropanecarboxylic acid ethyl ester (100 mmol), and 15.1 g 3-nitrobenzaldehyde (100 mmol) yielded 3.5 g product (10% yield).

reactant | ammonium acetate | 400 mmol, 30.8 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl cyanoacetate | 100 mmol, 11.3 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1-acetyl-cyclopropanecarboxylic acid ethyl ester | 100 mmol, 15.6 g | C(C)OC(=O)C1(CC1)C(C)=O | C8H12O3
reactant | 3-nitrobenzaldehyde | 100 mmol, 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
product | 1-[5-Cyano-4-(3-nitro-phenyl)-6-oxo-1,6-dihydro-pyridin-2-yl]-cyclopropanecarboxylic acid ethyl ester | 3.5 g, 10% yield | C(C)OC(=O)C1(CC1)C=1NC(C(=C(C1)C1=CC(=CC=C1)[N+](=O)[O-])C#N)=O | C18H15N3O5
